US03985887
An anhydrous benzene solution of 3-acetamido-4-benzyloxyphenyl 2-pyridyl ketone is heated at reflux with sodium until a suspension is formed. To this suspension is added sulfuryl chloride in benzene and the resulting mixture is filtered to remove sodium chloride. The filtrate is evaporated to give 4-benzyloxy-3-(N-chlorosulfonylacetamido)phenyl 2-pyridyl ketone.

reactant | 3-acetamido-4-benzyloxyphenyl 2-pyridyl ketone | N1=C(C=CC=C1)C(=O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)NC(C)=O | C21H18N2O3
reactant | sodium | [Na] | Na
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-benzyloxy-3-(N-chlorosulfonylacetamido)phenyl 2-pyridyl ketone | N1=C(C=CC=C1)C(=O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)N(C(C)=O)S(=O)(=O)Cl | C21H17ClN2O5S
